* AVE UNIVERSAL VACUUM CELL - CANONICAL BEHAVIORAL MODEL
* =====================================================
* Implements the Axiom 4 saturation kernel S(V) = sqrt(1-(V/V_x)^2)
* as ngspice behavioral sources.  All domain-specific SPICE models
* (nuclear, molecular, protein, hardware) are wiring topologies of
* this single cell.
*
* Reference:  Vol 4 Ch 1 - Vacuum Circuit Analysis
*             Backmatter App 4 - Physics Engine Architecture
*             Backmatter App 6 - SPICE Verification Manual
*
* Constants (from ave.core.constants):
*   V_SNAP  = 510998.95 V     (m_e c^2 / e)
*   V_YIELD = 43651.85 V      (sqrt(alpha) * V_SNAP; ave.core.constants.V_YIELD = 43651.851844...)
*   I_MAX   = 124.384 A       (xi_topo * c)
*   Z_0     = 376.73 Ohm      (sqrt(mu_0 / eps_0))
*
* FLAG-1 VALUE-DRIFT WARNING (2026-07-03, ave-canonical-source).
*   V_SNAP / V_YLD / I_YMAX below are HAND-WRITTEN literals - they are NOT
*   generated from ave.core.constants and WILL drift. Canonical values:
*     V_SNAP  = 510998.946... V   (ave.core.constants.V_SNAP)
*     V_YIELD = 43651.851844... V (ave.core.constants.V_YIELD)
*     I_MAX   = 124.384 A         (ave.core.constants.I_MAX)
*   The prior 43651.9 / KB-spec 43653.7 disagreements are corrected to
*   43651.85 here (2026-07-03, FLAG-1). The DURABLE fix is to GENERATE
*   this .lib from constants.py (SPICE-charter design-(d):
*   _orchestration/2026-07-03_spice-lane-charter.md 2(d) - .lib.template
*   + substitute-at-test-time). Generator NOT built here; values fixed +
*   warned only. Do NOT hand-edit these literals to a rounded value again.
*
* SECTOR-KEYING FIX (2026-07-03, follow-up batch; Grant grade-fork 2026-06-30
*   ratified, nonlinear-vacuum-capacitance.md:18, def-vyvsn1):
*   The DIVERGENT metric varactor (C_eff = C0/S, the LONGITUDINAL-A1 bond
*   compliance) diverges at V_SNAP (511 kV), NOT V_YLD (43.65 kV). The prior
*   .lib keyed the A1 B_VAR on V_YLD - a mis-scoping by the factor
*   1/sqrt(alpha) ~ 11.7. The A1 B_VAR in AVE_VACUUM_CELL is now keyed on
*   V_SNAP. This CHANGES the divergence voltage (43.65 kV -> 511 kV) for that
*   element. V_YLD stays the yield/rupture threshold for the TVS Zener and the
*   thixotropic memristor S_eq (the transverse-T2 yield wall). Two sites are
*   SURFACED as ADJUDICATION-PENDING (not auto-fixed) - see the AVE_EE_BENCH
*   and AVE_VACUUM_CELL_L1 notes below.
*
* Subcircuit parameters:
*   L0       - base inductance (mass analog)
*   C0       - base capacitance (compliance analog)
*   R0       - base resistance (viscosity analog), default 0
*   V_SNAP   - A1 bond-compliance divergence voltage, default V_SNAP (511 kV)
*   V_YLD    - transverse-T2 dielectric yield / rupture voltage, default V_YIELD
*   I_YMAX   - current saturation limit, default I_MAX
*
* Usage:
*   .INCLUDE ave_vacuum_cell.lib
*   X1 node_a node_b AVE_VACUUM_CELL L0=1nH C0=1pF
* =====================================================


* -----------------------------------------------------------------
* 1. AVE_VACUUM_CELL - Full Nonlinear Universal Cell
* -----------------------------------------------------------------
* Three constitutive models in parallel between nodes A and B:
*   (a) Metric Varactor:     C_eff = C0 / S(V), knee at V_SNAP (A1 compliance)
*   (b) Relativistic Inductor: L_eff = L0 / S(I)
*   (c) TVS Zener:           R_eff = 0 when |V| >= V_YLD (T2 yield/rupture)
*   (d) Memristor:           [FUTURE - tau_relax ~ 1.29e-21 s
*                              below practical SPICE timestep]
*
* The saturation kernel S(x) = sqrt(1 - (x/x_max)^2) governs
* both the electric (voltage) and magnetic (current) sectors.
*
* Implementation notes:
*   - B-sources use min() to clamp the ratio below 0.9999 for
*     numerical stability (avoids sqrt of negative)
*   - The charge-based varactor Q = C_eff * V ensures conservation
*   - The flux-based inductor Phi = L_eff * I ensures conservation
* -----------------------------------------------------------------

.subckt AVE_VACUUM_CELL A B
+ params: L0=1n C0=1p R0=0 V_SNAP=510998.95 V_YLD=43651.85 I_YMAX=124.384

* Internal nodes
* N_I = current sense node  (inductor branch)
* N_V = voltage sense       (capacitor branch)

* -- (a) Metric Varactor (Axiom 4, longitudinal-A1 sector) --
* Q = C0 * V / sqrt(1 - (V/V_SNAP)^2)
* ngspice B-source with charge output:
*   B<name> node+ node- Q = { expression }
* The sqrt saturation ensures C_eff -> inf as V -> V_SNAP.
*
* SECTOR TAG (FLAG-2 RESOLVED-BY-EXISTING-RULING, Grant-ratified 2026-06-15;
*   research/2026-06-15_ceff-epsilon-monotonicity_result.md ADJUDICATION Q1=(B)):
*   This C_eff = C0/S DIVERGENT form is the LONGITUDINAL-A1 BOND COMPLIANCE
*   (C_comp = 1/k_a, the stretch-reactance; "Metric" = metric-dilatation = A1),
*   NOT the transverse dielectric permittivity. The ch15/ch17 KB netlists use
*   the reciprocal C_eff = C0*S (COLLAPSE) form - that is the TRANSVERSE-T2
*   dielectric permittivity (eps_eff = eps_0*S => C_diel prop S, the bench
*   LCR-measured capacitance). The two are ORTHOGONAL reactances (A1 perp T2)
*   sharing the EE name "capacitance"; NOT reciprocal laws of one object.
*   Canonical source: nonlinear-vacuum-capacitance.md:14 (sector note).
*
* KEYING (2026-07-03 SECTOR-KEYING FIX): the A1 compliance diverges at V_SNAP
*   (m_e c^2/e ~ 511 kV), NOT V_YLD (nonlinear-vacuum-capacitance.md:18, Grant
*   grade-fork 2026-06-30, def-vyvsn1: "the longitudinal-A1 bond compliance
*   diverges at the higher V_snap"). VALUE CHANGE: the divergence voltage moves
*   43.65 kV -> 511 kV for this element (a factor 1/sqrt(alpha) ~ 11.7).
B_VAR A B Q = {C0 * V(A,B) / sqrt(1 - min((V(A,B)/V_SNAP)**2, 0.9999))}

* -- (b) Relativistic Inductor (Axiom 4, magnetic sector) --
* Phi = L0 * I / sqrt(1 - (I/I_YMAX)^2)
* At I -> I_YMAX, L_eff -> inf and dI/dt -> 0 (velocity cannot exceed c).
* ngspice implements this via a behavioral voltage source in series with
* a small linear inductor for numerical integration:
L_BASE A N_L {L0}
B_REL_V N_L B V = {L0 * idt(V(A,B)) * (1/sqrt(1 - min((I(L_BASE)/I_YMAX)**2, 0.9999)) - 1) / (L0 + 1e-30)}

* -- (c) Optional Damping (Regime I: viscous drag) --
* R0 = 0 for free vacuum; nonzero for material domains
R_DAMP A B {R0 + 1e-15}

* -- (d) Memristor - see AVE_MEMRISTOR_S_STATE (optional L1 arm) --
* Canonical tau_relax_si = ell_node/c ~ 1.288e-21 s (ave.core.constants.TAU_RELAX_SI)
* Below practical ngspice timestep -> use scaled TAU_REL param + log tau_scale.
* Level-2 ODE: dS/dt = (S_eq - S) / tau_relax, S_eq = sqrt(1 - (V/V_YLD)^2)
*   (the memristor S_eq keys on V_YLD: it models the thixotropic T2 yield/plastic
*    transition, at/above V_yield - the yield wall, NOT the A1 compliance knee.)

.ends AVE_VACUUM_CELL


* -----------------------------------------------------------------
* 1b. AVE_MEMRISTOR_S_STATE - Level-2 saturation state integrator
* -----------------------------------------------------------------
* State node N_S holds S (0..1).  S_eq from voltage across A,B.
* dS/dt = (S_eq - S) / TAU_REL implemented as C=1 F + VCCS pair.
*
* SECTOR (2026-07-03): S_eq keys on V_YLD - this is the THIXOTROPIC memristor,
* the near-yield DISSIPATIVE T2 channel (nonlinear-vacuum-capacitance.md:50,
* "at/above V_yield"). It models the yield/plastic transition, NOT the A1
* compliance divergence, so V_YLD (the yield wall) is the correct key here.
*
* TAU_REL defaults to 1 ns (simulation-scaled).  Canonical vacuum
* tau_relax_si ~ 1.288e-21 s - log omega*tau in harness, not ngspice DC.

.subckt AVE_MEMRISTOR_S_STATE A B N_S
+ params: TAU_REL=1n V_YLD=43651.85

B_S_EQ N_SEQ 0 V = {sqrt(1 - min((V(A,B)/V_YLD)**2, 0.9999))}
C_S N_S 0 1
IC=1
G_REL_P N_S 0 N_SEQ 0 {1/TAU_REL}
G_REL_N N_S 0 N_S 0 {-1/TAU_REL}

.ends AVE_MEMRISTOR_S_STATE


* -----------------------------------------------------------------
* 1c. AVE_VACUUM_CELL_L1 - Varactor modulated by memristor state S
* -----------------------------------------------------------------
* L0 baseline = AVE_VACUUM_CELL (instantaneous S_eq in varactor).
* L1 arm = this subcircuit (lagging S on N_S modulates Q).
*
* ADJUDICATION-PENDING (2026-07-03 SECTOR-KEYING FIX, flag-don't-fix):
*   This B_VAR is the DIVERGENT C0/S A1-compliance form (=> its knee belongs at
*   V_SNAP), but its S is supplied by the AVE_MEMRISTOR_S_STATE node, whose S_eq
*   keys on V_YLD (the T2 thixotropic yield wall). So this element COUPLES an
*   A1-compliance divergence to a T2-yield lagging state - a genuine cross-sector
*   (A1 x T2) construction whose knee attribution is AMBIGUOUS: is the modulated
*   varactor an A1 compliance (=> V_SNAP) gated by a T2 memristor, or a T2-yield
*   plastic element wearing the C0/S form? The memristor still keys V_YLD (its
*   own S_eq is a T2 yield-state), so this L1 cell is left UNCHANGED and SURFACED
*   for orchestrator/Grant adjudication rather than force-rekeyed. The V_SNAP fix
*   above applies ONLY to the L0 (instantaneous) AVE_VACUUM_CELL A1 varactor.

.subckt AVE_VACUUM_CELL_L1 A B
+ params: L0=1n C0=1p R0=0 V_SNAP=510998.95 V_YLD=43651.85 I_YMAX=124.384 TAU_REL=1n

XN_MEM A B N_S AVE_MEMRISTOR_S_STATE TAU_REL={TAU_REL} V_YLD={V_YLD}

* ADJUDICATION-PENDING: modulated-by-memristor A1/T2 cross-sector varactor (see
* header note). S from the (T2-yield) memristor state node; UNCHANGED pending
* adjudication.
B_VAR A B Q = {C0 * V(A,B) / max(V(N_S), 1e-6)}

L_BASE A N_L {L0}
B_REL_V N_L B V = {L0 * idt(V(A,B)) * (1/sqrt(1 - min((I(L_BASE)/I_YMAX)**2, 0.9999)) - 1) / (L0 + 1e-30)}

R_DAMP A B {R0 + 1e-15}

.ends AVE_VACUUM_CELL_L1


* -----------------------------------------------------------------
* 2. AVE_VACUUM_CELL_LINEAR - Sanity-Check Linear Cell
* -----------------------------------------------------------------
* Identical topology but with constant L, C, R.
* Use for comparison: any deviation between LINEAR and NONLINEAR
* runs is due to Axiom 4 saturation effects.

.subckt AVE_VACUUM_CELL_LINEAR A B
+ params: L0=1n C0=1p R0=0

L1 A B {L0}
C1 A B {C0}
R1 A B {R0 + 1e15}

.ends AVE_VACUUM_CELL_LINEAR


* -----------------------------------------------------------------
* 3. AVE_EE_BENCH - EE Bench Dielectric Yield Plateau
* -----------------------------------------------------------------
* From KB: vol4/simulation/ch17-hardware-netlists/ee-bench-netlist.md
* Single varactor cell for DC sweep verification.
*
* ADJUDICATION-PENDING (2026-07-03 SECTOR-KEYING FIX, flag-don't-fix): TWO issues,
* neither auto-fixed:
*   (i) FORM CONTRADICTION. The canonical EE bench (ee-bench-netlist.md:15)
*       measures the COLLAPSE form C_eff = C0*S = C0*sqrt(1-(V/V_yield)^2) - the
*       TRANSVERSE-T2 dielectric permittivity (the LCR-bench capacitance that
*       ROLLS OFF). This .lib subckt implements the DIVERGENT C0/S (A1-compliance)
*       form instead. These are the two ORTHOGONAL reactances of the FLAG-2 split
*       (A1 perp T2) - so this subckt models the WRONG sector for what the EE
*       bench actually measures.
*   (ii) KEYING. IF the EE bench is the T2 permittivity (per ee-bench-netlist.md),
*       V_YLD is the correct key AND the form should be C0*S (collapse). IF it is
*       kept as an A1-compliance probe (C0/S divergent), the knee belongs at
*       V_SNAP. The two readings disagree on BOTH form and keying.
*   The DC-sweep bench (0..45 kV) only exercises V < V_yield, so on the collapse
*   reading the roll-off IS the intended anomaly-window signal. Left UNCHANGED and
*   SURFACED for adjudication (which sector is the EE bench modelling?) rather than
*   force one reading.
*
* Usage:
*   .INCLUDE ave_vacuum_cell.lib
*   V_SWEEP N_GAP GND DC 0
*   X1 N_GAP GND AVE_EE_BENCH C0=10p V_YLD=43650
*   R_PAR N_GAP GND 1G
*   .DC V_SWEEP 0 45000 100
*   .PROBE I(V_SWEEP)

.subckt AVE_EE_BENCH A B
+ params: C0=10p V_YLD=43651.85

B_Q A B Q = {C0 * V(A,B) / sqrt(1 - min((V(A,B)/V_YLD)**2, 0.9999))}

.ends AVE_EE_BENCH


* =====================================================
* END OF AVE UNIVERSAL VACUUM CELL LIBRARY
* =====================================================
